US06660742B2
Triphenylphosphine (2.57 g, 9.77 mmol), CCl4 (2.83 mL, 29.3 mmol), and dry CH2Cl2 (55 mL) were added to methyl 3-[2-benzyloxy-5-(2-hydroxyethyl)-4-nitroanilino]4,4,4-trifluoro-2-butenoate (2.10 g, 4.89 mmol) in a round bottom flask. The yellow solution was flushed with N2 and stirred overnight. The solution was checked by TLC (20% ethyl acetate/petroleum ether) and then concentrated under reduced pressure. The residue was purified on a silica gel column run in 10% ethyl acetate/petroleum ether solvent system to give methyl 3-[2-benzyloxy-5-(2-chloroethyl)-4-nitroanilino]-4,4,4-trifluoro-2-butenoate. Total yield: 1.25 g (2.71 mmol, 57%). M.p.=105-110° C. TLC (20% ethyl acetate /petroleum ether) Rf320.69.500 MHz 1H-NMR (CDCl3) 10.04 (s, 1H), 7.72 (s, 1H), 7.48 (d, 7.5, 2H), 7.41 (t, 7.5, 2H), 7.35 (t, 7.5, 1H), 7.14 (s, 1H), 5.63 (s, 1H), 5.23 (s, 2H), 3.80 (t, 6.5, 2H), 3.75 (s, 3H), 3.33 (t, 6.5, 2H). IR (neat) 2415, 3050, 2956, 1730, 1687, 1640, 1615, 1585, 1530, 1334, 1296, 1215, 1143, 1024, 815, 739, 696. EI-MS (relative intensity) 458 (M+, 6). Accurate mass for C20H18O5N235ClF3: calcd. 458.0856, obsd. 458.0853.

reactant | Triphenylphosphine | 9.77 mmol, 2.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CCl4 | 29.3 mmol, 2.83 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | methyl 3-[2-benzyloxy-5-(2-hydroxyethyl)-4-nitroanilino]4,4,4-trifluoro-2-butenoate | 4.89 mmol, 2.10 g | C(C1=CC=CC=C1)OC1=C(NC(=CC(=O)OC)C(F)(F)F)C=C(C(=C1)[N+](=O)[O-])CCO | C20H19F3N2O6
solvent | CH2Cl2 | 55 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-[2-benzyloxy-5-(2-chloroethyl)-4-nitroanilino]-4,4,4-trifluoro-2-butenoate | C(C1=CC=CC=C1)OC1=C(NC(=CC(=O)OC)C(F)(F)F)C=C(C(=C1)[N+](=O)[O-])CCCl | C20H18ClF3N2O5
